US09126970B2
Step b): 7-{10-(4,6-Diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
30.2 g (34.0 mmol) of tert-butyl 7-{10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-12H-10-azaindeno[2,1-b]fluorene-10-carboxylate are dissolved in 900 ml of toluene and 200 ml of anisole, and 50 ml of trifluoroacetic acid are subsequently added. The mixture is stirred at 40° C. for 3 h and, when the reaction is complete, neutralised by means of ice-water and 20% NaOH solution. The mixture is extracted with dichloromethane, dried and recrystallised from toluene. The yield is 23.6 g (30 mmol, 88%).

reactant | tert-butyl 7-{10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-12H-10-azaindeno[2,1-b]fluorene-10-carboxylate | 34.0 mmol, 30.2 g | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=C(C=CC=C13)C=1C=C3C=2C=C4C(=CC2N(C3=CC1)C(=O)OC(C)(C)C)C(C1=CC=CC=C14)(C)C)(C)C | C62H49N5O2
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
solvent | anisole | 200 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-{10-(4,6-Diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorenyl}-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=C(C=CC=C13)C=1C=C3C=2C=C4C(=CC2NC3=CC1)C(C1=CC=CC=C14)(C)C)(C)C | C57H41N5
